Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[cH:8][cH:9]1.[cH:10]1[cH:11][nH:12][cH:13][n:14]1>>[CH2:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[cH:8][cH:9]1)[n:12]1[cH:11][cH:10][n:14][cH:13]1,[Br:101][CH2:1][c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[cH:8][cH:9]1.[cH:10]1[cH:11][nH:12][cH:13][n:14]1>>[CH2:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[cH:8][cH:9]1)[n:12]1[cH:11][cH:10][n:14][cH:13]1,SN2,"[(12, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[CH2:3][Cl:4].[O:5]=[C:6]1[CH2:7][O:8][c:9]2[c:10]([F:11])[cH:12][cH:13][cH:14][c:15]2[NH:16]1>>[C:1](=[O:2])([CH2:3][Cl:4])[c:13]1[cH:12][c:10]([F:11])[c:9]2[c:15]([cH:14]1)[NH:16][C:6](=[O:5])[CH2:7][O:8]2,[O:5]=[C:6]1[CH2:7][O:8][c:9]2[c:10]([F:11])[cH:12][cH:13][cH:14][c:15]2[NH:16]1.[Cl:101][C:1](=[O:2])[CH2:3][Cl:4].Cl[Al:301](Cl)Cl>>[C:1](=[O:2])([CH2:3][Cl:4])[c:13]1[cH:12][c:10]([F:11])[c:9]2[c:15]([cH:14]1)[NH:16][C:6](=[O:5])[CH2:7][O:8]2,Friedel_Crafts_acylation,"[(101, 301), ([1, 101], 101), ([14, 13], 1), ([301, 101], 13.1), ([13.1, 13], [13, 14])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
BrC([Br:1])(Br)Br.O[CH2:2][CH2:3][CH2:4][C@H:5]([N:6]([c:7]1[c:8]([CH2:9][O:10][C:11]([CH3:12])=[O:13])[cH:14][cH:15][c:16]([Cl:17])[cH:18]1)[S:19](=[O:20])(=[O:21])[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][cH:28]1)[CH3:29]>>[Br:1][CH2:2][CH2:3][CH2:4][C@H:5]([N:6]([c:7]1[c:8]([CH2:9][O:10][C:11]([CH3:12])=[O:13])[cH:14][cH:15][c:16]([Cl:17])[cH:18]1)[S:19](=[O:20])(=[O:21])[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][cH:28]1)[CH3:29],[OH:101][CH2:2][CH2:3][CH2:4][C@H:5]([N:6]([c:7]1[c:8]([CH2:9][O:10][C:11]([CH3:12])=[O:13])[cH:14][cH:15][c:16]([Cl:17])[cH:18]1)[S:19](=[O:20])(=[O:21])[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][cH:28]1)[CH3:29].Br[C:102](Br)(Br)[Br:1].c1ccccc1[P:301](c2ccccc2)c3ccccc3>>[Br:1][CH2:2][CH2:3][CH2:4][C@H:5]([N:6]([c:7]1[c:8]([CH2:9][O:10][C:11]([CH3:12])=[O:13])[cH:14][cH:15][c:16]([Cl:17])[cH:18]1)[S:19](=[O:20])(=[O:21])[c:22]1[cH:23][cH:24][c:25]([Cl:26])[cH:27][cH:28]1)[CH3:29],Appel,"[(301, 1), ([1, 102], 102), (102, 101.1), ([101.1, 101], 101), (101, 301), ([301, 1], 1), (1, 2), ([2, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[nH:3][c:4]([CH3:5])[c:6]([Cl:7])[cH:8]1)=[O:9].[CH3:10][O:11][C:12](=[O:13])[N:14]1[CH2:15][CH2:16][C@@H:17]([NH2:18])[C@@H:19]([CH3:20])[CH2:21]1>>[C:1]([c:2]1[nH:3][c:4]([CH3:5])[c:6]([Cl:7])[cH:8]1)(=[O:9])[NH:18][C@@H:17]1[CH2:16][CH2:15][N:14]([C:12]([O:11][CH3:10])=[O:13])[CH2:21][C@@H:19]1[CH3:20],[CH3:10][O:11][C:12](=[O:13])[N:14]1[CH2:15][CH2:16][C@@H:17]([NH2:18])[C@@H:19]([CH3:20])[CH2:21]1.[OH:101][C:1]([c:2]1[nH:3][c:4]([CH3:5])[c:6]([Cl:7])[cH:8]1)=[O:9].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[nH:3][c:4]([CH3:5])[c:6]([Cl:7])[cH:8]1)(=[O:9])[NH:18][C@@H:17]1[CH2:16][CH2:15][N:14]([C:12]([O:11][CH3:10])=[O:13])[CH2:21][C@@H:19]1[CH3:20],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (18, 1), ([1, 9], 9), (303, 18.1), ([18.1, 18], 18), (9, [9, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[cH:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][n:10]1.[cH:11]1[cH:12][cH:13][c:14]2[c:15]3[c:16]([nH:17][c:18]2[cH:19]1)[CH2:20][NH:21][CH2:22][CH2:23]3>>[c:1]1([N:21]2[CH2:20][c:16]3[c:15]([c:14]4[cH:13][cH:12][cH:11][cH:19][c:18]4[nH:17]3)[CH2:23][CH2:22]2)[cH:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][n:10]1,[cH:11]1[cH:12][cH:13][c:14]2[c:15]3[c:16]([nH:17][c:18]2[cH:19]1)[CH2:20][NH:21][CH2:22][CH2:23]3.[Cl:101][c:1]1[cH:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][n:10]1>>[c:1]1([N:21]2[CH2:20][c:16]3[c:15]([c:14]4[cH:13][cH:12][cH:11][cH:19][c:18]4[nH:17]3)[CH2:23][CH2:22]2)[cH:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][n:10]1,SNAr(para),"[(21, 1), ([1, 10], [10, 9]), ([9, 4], [4, 5]), ([5, 8], 8), (8, [8, 5]), ([5, 4], [4, 9]), ([9, 10], [10, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
